### PR TITLE
Regular primes conjecture

### LINKED ISSUE #246: Infinitely many regular primes.
### What is the conjecture
Regular primes  `p` are those that don't divide the class number of the p-th cyclotomic field. Otherwise, they are called irregular. It is known that there are infinitely many irregular primes, but not known if there are infinitely many regular primes. Sometimes called Siegel's conjecture.

https://en.wikipedia.org/wiki/Regular_prime

### Prerequisites needed
Definition of a regular prime. This is in the FLT regular project, but not yet in mathlib.

### PR DESCRIPTION
**Pull request by CBirkbeck**
Add the conjecture that there are infinitely many regular primes.

closes #246

### CODE REVIEW

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+
+/-- The set of regular primes. -/
+def regularPrimes : Set ℕ := { p | ∃ (hp : Nat.Prime p), @IsRegularPrime p ⟨hp⟩ }
+
+/-- Conjecture: The set of regular primes is infinite. -/
+def RegularPrimeConjecture : Prop :=
+  regularPrimes.Infinite
+
+@[category research open, AMS 11]
+theorem regularprime_conjecture : RegularPrimeConjecture :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]: I would inline this definition and use the docstring for the theorem.

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+
+-/
+
+open scoped NumberField
+
+noncomputable section
+
+variable (p : ℕ)
+
+/-- In this version of mathlib we need to do this manually it seems. -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]: Perhaps add a TODO to update when we update to a new version (4.21 at the latest, I suppose)

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 3]
```diff
@@ -0,0 +1,54 @@
...
+instance [hp : Fact p.Prime]  : NumberField (CyclotomicField ⟨p, hp.out.pos⟩ ℚ) :=
+  IsCyclotomicExtension.numberField {⟨p, hp.out.pos⟩} ℚ _
+
+/-- A natural prime number `p` is regular if `p` is coprime with the cardinal of the class group
+of the `p`-th cyclotomic field. -/
+def IsRegularPrime [hp : Fact p.Prime] : Prop :=
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RegularPrimes.lean:43]: As a sanity check/API check we could add examples @[category undergraduate, AMS 11] which show that 3, 5, 7 or even all odd primes until 37 have the property and that 37 doesn't. 
With sorried proof of course

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+
+noncomputable section
+
+variable (p : ℕ)
+
+/-- In this version of mathlib we need to do this manually it seems. -/
+instance [hp : Fact p.Prime]  : NumberField (CyclotomicField ⟨p, hp.out.pos⟩ ℚ) :=
+  IsCyclotomicExtension.numberField {⟨p, hp.out.pos⟩} ℚ _
+
+/-- A natural prime number `p` is regular if `p` is coprime with the cardinal of the class group
```
Comment (mo271) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]:
```suggestion
/-- A natural prime number `p` is regular if `p` is coprime with the cardinality of the class group
```
or "order", which might be more idiomatic for groups?

**Review by mo271 — APPROVED** [review]
Great contribution, thank you!

Would it make sense to also have the definition with Bernoulli numbers als alternative here? (I haven't checked if the equivalence of the definitions is in Mathlib)

Other than the few minor comments, this looks good to me.

**Review by alreadydone — COMMENTED** [review]
Can you add the [conjecture about the density](https://en.wikipedia.org/wiki/Regular_prime#Siegel's_conjecture)? Thanks!

**Comment by mo271** [comment]
> Can you add the [conjecture about the density](https://en.wikipedia.org/wiki/Regular_prime#Siegel's_conjecture)? Thanks!

(Possibly in a followed up, if we want to keep pull requests small...)

**Comment by CBirkbeck** [comment]
So the equivalence between this and the Bernoulli definition is not in mathlib, but I added it here as a lemma (with a sorry). Its actually something Riccardo and I plan to work on soon, so it'll be a race :p . Maybe the density conjecture we leave to another PR? I actually don't know what is the best way to state this in Lean.

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 5]
```diff
@@ -0,0 +1,78 @@
...
+/-- An equivanlent definitions of regualr prime `p` is that it does not divide the numerator of the
+first `p-3` Bernoulli numbers. Not in Mathlib. -/
+@[category graduate, AMS 11]
+theorem isRegularPrime_iff_Bernoulli (p : ℕ) [Fact p.Prime] :
+  IsRegularPrime p ↔ ∀ (k : (Finset.Icc (2 : ℕ) (p-3))), ¬ (p : ℤ) ∣ (bernoulli' (k : ℕ)).num := by sorry
+
+/-- The set of irregular primes is infinite. -/
+@[category research solved, AMS 11]
+theorem infinitude_of_irregularprimes : irregularPrimes.Infinite := sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]:
```suggestion
theorem infinitude_of_irregularprimes : irregularPrimes.Infinite := by 
  sorry

```

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+/-- The set of regular primes. -/
+def regularPrimes : Set ℕ := { p | ∃ (hp : Nat.Prime p), @IsRegularPrime p ⟨hp⟩ }
+
+/-- The set of irregular primes. -/
+def irregularPrimes : Set ℕ := { p | ∃ (hp : Nat.Prime p), ¬ @IsRegularPrime p ⟨hp⟩ }
+
+@[category undergraduate, AMS 11]
+lemma small_regular_primes :
+  { 2, 3, 5, 7, 11, 13, 17, 19, 23, 29, 31 } ⊆ regularPrimes := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]:
```suggestion
    { 2, 3, 5, 7, 11, 13, 17, 19, 23, 29, 31 } ⊆ regularPrimes := by
  sorry
```

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+
+@[category undergraduate, AMS 11]
+example : ¬ @IsRegularPrime 37 (by decide) := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]:
```suggestion
example : ¬ @IsRegularPrime 37 (by decide) := by
  sorry
```

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 8]
```diff
@@ -0,0 +1,78 @@
...
+
+/-- An equivanlent definitions of regualr prime `p` is that it does not divide the numerator of the
+first `p-3` Bernoulli numbers. Not in Mathlib. -/
+@[category graduate, AMS 11]
+theorem isRegularPrime_iff_Bernoulli (p : ℕ) [Fact p.Prime] :
+  IsRegularPrime p ↔ ∀ (k : (Finset.Icc (2 : ℕ) (p-3))), ¬ (p : ℤ) ∣ (bernoulli' (k : ℕ)).num := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]: This should work
```suggestion
    IsRegularPrime p ↔ ∀ k ∈ Finset.Icc 2 (p - 3), ¬ (p : ℤ) ∣ (bernoulli' k).num := by
  sorry
```

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 9]
```diff
@@ -0,0 +1,78 @@
...
+instance [hp : Fact p.Prime]  : NumberField (CyclotomicField ⟨p, hp.out.pos⟩ ℚ) :=
+  IsCyclotomicExtension.numberField {⟨p, hp.out.pos⟩} ℚ _
+
+/-- A natural prime number `p` is regular if `p` is coprime with the order of the class group
+of the `p`-th cyclotomic field. -/
+def IsRegularPrime [hp : Fact p.Prime] : Prop :=
+  p.Coprime <| Fintype.card <| ClassGroup (𝓞 <| CyclotomicField ⟨p, hp.out.pos⟩ ℚ)
+
+@[category undergraduate, AMS 11]
+example : ¬ @IsRegularPrime 37 (by decide) := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]:
```suggestion
example : ¬ @IsRegularPrime 37 (by decide) := by
  sorry
```

File: FormalConjectures/Wikipedia/RegularPrimes.lean [hunk 10]
```diff
@@ -0,0 +1,78 @@
...
+@[category research solved, AMS 11]
+theorem infinitude_of_irregularprimes : irregularPrimes.Infinite := sorry
+
+/-- Conjecture: The set of regular primes is infinite. -/
+def RegularPrimeConjecture : Prop :=
+  regularPrimes.Infinite
+
+/-- Conjecture: The set of regular primes is infinite. -/
+@[category research open, AMS 11]
+theorem regularprime_conjecture : RegularPrimeConjecture := sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/RegularPrimes.lean]:
```suggestion
theorem regularprime_conjecture : RegularPrimeConjecture := by 
  sorry
```

**Review by Paul-Lez — APPROVED** [review]
Thanks for the PR, this is very cool:)
